US07601714B2
5-nitro-N4-[(trans-4-pyrrolidin-1-ylcyclohexyl)methyl]-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
To a solution of N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine (86 mg, 0.2 mmol) in DMF (1 mL) were added 1,4-dibromobutane (710 μL, 0.59 mmol) and DIPEA (103 μL, 0.59 mmol). The reaction mixture was stirred at 65° C. for 4 h. The reaction mixture was then diluted with EtOAc and washed with saturated NaHCO3 and water (×4). The organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 10:1:0.05 CH2Cl2:MeOH:NH4OH as an eluent to afford 60 mg (62%) of the title compound as an off-white solid, m/z 493.3 [M−1]+.

reactant | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-[2-(trifluoromethoxy)benzyl]-pyrimidine-2,4-diamine | 0.2 mmol, 86 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C(C=CC=C1)OC(F)(F)F | C19H23F3N6O3
reactant | 1,4-dibromobutane | 0.59 mmol, 710 μL | BrCCCCBr | C4H8Br2
reactant | DIPEA | 0.59 mmol, 103 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-nitro-N4-[(trans-4-pyrrolidin-1-ylcyclohexyl)methyl]-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 60 mg, 62% | [N+](=O)([O-])C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)N1CCCC1 | C23H29F3N6O3
